US04898871
The procedure is as in Example 22, but starting with N-isopropylglycolamide (5.3 g) in tetrahydrofuran (250 cc), an oily suspension (50% by weight; 2.2 g) of sodium hydride and 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (10 g). After purification by recrystallization in acetonitrile, [2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]-N-isopropylacetamide (4 g), m.p. 188° C., is obtained.

reactant | N-isopropylglycolamide | 5.3 g | C(C)(C)NC(CO)=O | C5H11NO2
reactant | sodium hydride | 2.2 g | [H-].[Na+]
reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 10 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
solvent | tetrahydrofuran | 250 cc | O1CCCC1 | C4H8O
product | [2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]-N-isopropylacetamide | 4 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)OCC(=O)NC(C)C | C21H19ClN4O3
